US04705888
Preparation of 2-methyl-3-buten-2-yl peroxypivalate
To a stirred mixture cooled at 10° C. of 10 g of demineralized water, 17.3 g of a 45% by weight-potassium hydroxide solution in water (0.139 moles) and 12.9 g of 2-methyl-3-buten-2-yl hydroperoxide (0.120 moles) there were added over a period of 25 minutes 14.5 g of pivaloyl chloride (0.120 moles); the temperature of the reaction mixture was kept at 10°-12° C. Stirring was continued for 1 hour, after which the organic layer was isolated. It was washed successively with an aqueous solution of 10% by weight-KOH (15 min, 10° C.), an aqueous bisulphite/acetate buffer (20 min., 10° C.) and a dilute solution of sodium bicarbonate in water (2x). Finally, the organic layer was dried with MgSO4 and the product was isolated by filtration. There were obtained 17.3 g of colourless oil containing 97.7% of peroxy ester, which corresponds to a yield of 75.6 %. The identity of the product was confirmed by IR and NMR spectroscopy (1H and 13C).

reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-methyl-3-buten-2-yl hydroperoxide | 0.120 moles, 12.9 g | CC(C)(C=C)OO | C5H10O2
reactant | pivaloyl chloride | 0.120 moles, 14.5 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | water | 10 g | O | H2O
solvent | water | 0.139 moles | O | H2O
product | 2-methyl-3-buten-2-yl peroxypivalate | 17.3 g, yield of 75.6 % | C(C(C)(C)C)(=O)OOC(C)(C=C)C | C10H18O3
